US05834463
(3aR*,10aS*)-9-Benzyl-4-(phthalimidoacetyl)-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta [e][1,4]diazepin
A crude product of (3aR*,10aS*)-9-benzyl-4-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta-[e][1,4]diazepin synthesized from (3aR*,10aS*)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta [e][1,4]diazepin-10(1H)-one (2.92 g, 10 mmol) in substantially the same manner as in Working Example 42 was dissolved in 1,2-dichloroethane, to which was added phthalimidoacetyl chloride (2.24 g, 10 mmol). The mixture was stirred for 15 minutes at room temperature, which was refluxed for 15 minutes. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate (15 mL). The aqueous layer was separated, and the organic layer was washed with water and, then, dried over magnesium sulfate, which was subject to filtration, followed by concentration under reduced pressure. To the concentrate was added ethanol-diethylether, and the solid matter was collected by filtration and recrystallized from chloroform-ethanol to give 1.72 g (yield 37%) of the titled compound, m.p. 232°-234° C.

reactant | (3aR*,10aS*)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta [e][1,4]diazepin-10(1H)-one | 10 mmol, 2.92 g | C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@@H](C1=O)CCC3)C=CC=C2 | C19H20N2O
reactant | phthalimidoacetyl chloride | 10 mmol, 2.24 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | sodium hydrogencarbonate | 15 mL | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (3aR*,10aS*)-9-Benzyl-4-(phthalimidoacetyl)-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta [e][1,4]diazepin | 1.72 g, yield 37% | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@H](C1)CCC3)C(CN3C(C=1C(C3=O)=CC=CC1)=O)=O)C=CC=C2 | C29H27N3O3
